US06313301B1
3-(N-Benzyl-N-methylaminomethyl)-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-2-(4-nitrophenyl)-4-oxothieno[2,3-b]pyridine (33 g), iron powder (12.3 g) and ethanol (132 ml) were mixed and treated dropwise with concentrated hydrochloric acid (55.5 g) diluted with water (19 ml) over a period of 2 hours with cooling on ice, and the reaction mixture was stirred as it was for 2 hours. The reaction mixture was poured into a solution of sodium hydrogencarbonate (55.3 g) in water (450 ml) and the mixture was stirred for 1 hour together with ethyl acetate (825 ml), and filtered through a Hyflo Super Cell to remove insoluble materials. The aqueous layer was extracted with ethyl acetate (500 ml) and then the organic layers were combined, and washed with a saturated saline (1000 ml), dried over anhydrous magnesium sulfate (35 g) and then concentrated into dryness to obtain a crude product of 2-(4-aminophenyl)-3-(N-benzyl-N-methylaminomethyl)-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-4-oxothieno[2,3-b]pyridine (32.3 g). This was dissolved in methanol (200 ml) and admixed with a solution of fumaric acid (6.56 g) in methanol (200 ml) and the mixture was concentrated under reduced pressure to about 150 g. The precipitated suspension thus obtained was diluted with ethyl acetate (300 ml) and the mixture was stirred at room temperature for 1 hour and then the crystal was recovered by a filtration. After washing with ethyl acetate (200 ml) followed by drying in vacuo at 50° C. for 3 hours, the title compound (33.38 g, 88.5%) was obtained.

reactant | 3-(N-Benzyl-N-methylaminomethyl)-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-2-(4-nitrophenyl)-4-oxothieno[2,3-b]pyridine | 33 g | C(C1=CC=CC=C1)N(C)CC1=C(SC=2N(C=C(C(C21)=O)C(C(C)C)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)[N+](=O)[O-] | C33H29F2N3O4S
reactant | ethanol | 132 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 55.5 g | Cl | ClH
reactant | sodium hydrogencarbonate | 55.3 g | C(O)([O-])=O.[Na+]
solvent | water | 19 ml | O | H2O
solvent | water | 450 ml | O | H2O
catalyst | iron | 12.3 g | [Fe] | Fe
solvent | ethyl acetate | 825 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-aminophenyl)-3-(N-benzyl-N-methylaminomethyl)-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-4-oxothieno[2,3-b]pyridine | 32.3 g | NC1=CC=C(C=C1)C1=C(C2=C(N(C=C(C2=O)C(C(C)C)=O)CC2=C(C=CC=C2F)F)S1)CN(C)CC1=CC=CC=C1 | C33H31F2N3O2S
